US08614327B2
To a solution of 6-amino-3-hydroxy-3-(trifluoromethyl)indolin-2-one (58 mg, 0.25 mmol) in THF (0.5 mL) at 0° C. was added BH3.THF complex (1 M in THF, 1 mL, 0.95 mmol) dropwise. The reaction mixture was stirred for 5 min at 0° C. then for 3 h at room temperature. The reaction mixture was quenched by adding very carefully 6M HCl (3.5 mL) until no more gas release was observed. The reaction mixture was then stirred at 80° C. for 2 h. The solvent was removed under reduce pressure and the solid residue obtained was dissolved in DMF (3 mL), filtered and purified by reverse phase HPLC (10-99% CH3CN/H2O) to provide 3-(trifluoromethyl)-1H-indol-6-amine (30 mg, 54%, TFA salt).

reactant | 6-amino-3-hydroxy-3-(trifluoromethyl)indolin-2-one | 0.25 mmol, 58 mg | NC1=CC=C2C(C(NC2=C1)=O)(C(F)(F)F)O | C9H7F3N2O2
reactant | BH3.THF | 0.95 mmol, 1 M, 1 mL | B.C1CCOC1
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-(trifluoromethyl)-1H-indol-6-amine | 30 mg, 54% | FC(C1=CNC2=CC(=CC=C12)N)(F)F | C9H7F3N2
